US04922019
On the other hand, a process is described in the literature (K. S. Y. Lau et al., Journal of Polymer Science, Polymer Chemistry Edition, 20. 2381-2393 (1982)) which facilitates the preparation of an isomeric diamine to 2,2-bis-(4-aminophenyl) hexafluoropropane from, 2,2-bis-(3-aminophenyl)hexafluoropropane, in very high yields. For this, the process also starts out from 2,2-bis-(4-hydroxyphenyl)hexafluoropropane, the hydroxyl groups of which are converted into F3C-SO3 groups by reaction with trifluoromethanesulfonic anhydride. Trifluoromethanesulfonic acid is eliminated from this compound in a second step by catalytic hydrogenation with a palladium/charcoal catalyst which is suspended in triethylamine and 2,2-bisphenylhexafluoropropane is thus obtained. This compound is nitrated using nitric acid in concentrated sulfuric acid to give 2,2-bis-(3-nitrophenyl)hexafluoropropane in a third step which is then hydrogenated on a palladium/charcoal catalyst to give 2,2-bis-(3-aminophenyl)hexafluoropropane in a fourth step.

reactant | 2,2-bis-(4-aminophenyl) hexafluoropropane | NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)N | C15H12F6N2
reactant | 2,2-bis-(3-aminophenyl)hexafluoropropane | NC=1C=C(C=CC1)C(C(F)(F)F)(C(F)(F)F)C1=CC(=CC=C1)N | C15H12F6N2
reactant | 2,2-bis-(4-hydroxyphenyl)hexafluoropropane | OC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)O | C15H10F6O2
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Trifluoromethanesulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
catalyst | palladium/charcoal | [Pd] | Pd
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,2-bisphenylhexafluoropropane | C1(=CC=CC=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=CC=C1 | C15H10F6
